US04731471
To a solution of sodium metal (0.116 g) in methanol (180 ml) was added {[9a-(2-acetoxyethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetonitrile (7.2 g, 18.3 mMole). The reaction mixture was stirred for 11/4 hours in a nitrogen atmosphere then treated with ammonium chloride (2.0 g, 37 mMole) and stirring was continued for 21/2 hours. The methanol was evaporated in vacuo, the residue dissolved in water, treated with 10N NaOH (10 ml), extracted with diethyl ether (100 ml) and then CH2Cl2 (3×50 ml), washed with water, dried over potassium carbonate and evaporated in vacuo. The residue was dissolved in diethyl ether, treated with a slight excess of ethanolic HCl, filtered under nitrogen, and washed with diethyl ether to give the {[9a-(2-acetoxyethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}ethanimidamide hydrochloride.

reactant | sodium | 0.116 g | [Na] | Na
reactant | {[9a-(2-acetoxyethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetonitrile | 18.3 mMole, 7.2 g | C(C)(=O)OCCC12CC3=CC(=C(C(=C3C2=CC(CC1)=O)Cl)Cl)OCC#N | C19H17Cl2NO4
reactant | ammonium chloride | 37 mMole, 2.0 g | [Cl-].[NH4+]
solvent | methanol | 180 ml | CO | CH4O
product | {[9a-(2-acetoxyethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}ethanimidamide hydrochloride | Cl.C(C)(=O)OCCC12CC3=CC(=C(C(=C3C2=CC(CC1)=O)Cl)Cl)OCC(N)=N | InChI=1S/C19H20Cl2N2O4.ClH/c1-10(24)26-5-4-19-3-2-12(25)7-13(19)16-11(8-19)6-14(17(20)18(16)21)27-9-15(22)23;/h6-7H,2-5,8-9H2,1H3,(H3,22,23);1H
